US04725283
Preparation of 2-amino-4-β-hydroxyethylamino-5-chloronitrobenzene
0.11 mole (22.8 g) of 4,5-dichloro-2-nitroaniline is added to a solution of 0.55 mole (33.3 ml) of ethanolamine in 70 ml of dioxane. The reaction mixture is heated for 6 hours in refluxing dioxane. After dilution with water and neutralization with concentrated hydrochloric acid, the expected product precipitates.

reactant | 4,5-dichloro-2-nitroaniline | 0.11 mole, 22.8 g | ClC1=CC(=C(N)C=C1Cl)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | ethanolamine | 0.55 mole, 33.3 ml | C(O)CN | C2H7NO
solvent | dioxane | 70 ml | O1CCOCC1 | C4H8O2
product | 2-amino-4-β-hydroxyethylamino-5-chloronitrobenzene | NC1=C(C=C(C(=C1)NCCO)Cl)[N+](=O)[O-] | C8H10ClN3O3
